US08222424B2
To a mixture of 0.1 g of 5-[3-bromo-1-(tert-butyl-dimethyl-silyl)-1H-indole-6-carbonyl]-2-chloro-N-(tert-butyl-dimethyl-silyl)-benzenesulfonamide, 0.039 g of phenylboronic acid and 0.025 g of 1,1′-bis(diphenylphosphino)-ferrocenedichloropalladium(II)-dichloromethane complex in dimethoxyethane (3.6 mL) is added 0.099 g of tri-potassium phosphate in water (1.2 mL). The solution is heated to 130° C. for 5 minutes (microwave irradiation). The reaction mixture is extracted with ethyl acetate. The organic phase is washed with water, dried (magnesium sulfate) and concentrated to 0.094 g of crude product. Purification via flash chromatography on silica gel (98:2 methylene chloride/methanol) afforded 2-chloro-5-(3-phenyl-1H-indole-6-carbonyl)-benzenesulfonamide as a tan powder. MS (m/z): 409 (M−1); Rf 0.22 (95:5:0.5 methylene chloride/methanol/ammonium hydroxide).

reactant | 5-[3-bromo-1-(tert-butyl-dimethyl-silyl)-1H-indole-6-carbonyl]-2-chloro-N-(tert-butyl-dimethyl-silyl)-benzenesulfonamide | 0.1 g | BrC1=CN(C2=CC(=CC=C12)C(=O)C=1C=CC(=C(C1)S(=O)(=O)N[Si](C)(C)C(C)(C)C)Cl)[Si](C)(C)C(C)(C)C | C27H38BrClN2O3SSi2
reactant | phenylboronic acid | 0.039 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tri-potassium phosphate | 0.099 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethoxyethane | 3.6 mL | C(OC)COC | C4H10O2
solvent | water | 1.2 mL | O | H2O
product | 2-chloro-5-(3-phenyl-1H-indole-6-carbonyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)C(=O)C1=CC=C2C(=CNC2=C1)C1=CC=CC=C1)S(=O)(=O)N | C21H15ClN2O3S
